.subckt TNY280_AB BP EN D S
A2 N016 S S S N024 S N020 S AND Vhigh=5.8 Trise=75n
A3 N025 N019 S S S N024 S S SRFLOP Vhigh=5.8 Trise=100n
A4 N015 S S S N017 N025 S S AND Vhigh=5.8 Trise=50n
A6 N002 S S N007 N023 S N019 S AND Vhigh=5.8 Trise=50n
A7 N002 S S S N002 S N023 S OR Vhigh=5.8 Trise=50n
I1 S N011 PULSE(379u 403u 0 0.5m 0.5m 0 1m)
C1 N011 S 1n
R4 N011 N012 10
C2 N012 S 10p
A9 N012 S S S S N014 N007 S SCHMITT Vhigh=5.8 Trise=50n Vt=1.6 Vh=1.4
D1 N013 N014 Ideal
R2 N011 N013 100
A10 N012 S S S S N015 S S SCHMITT Vhigh=5.8 Trise=50n Vt=1.745 Vh=0.245
I2 D N001 350u load
D2 S N001 5_85V
D3 N001 BP Ideal
D4 S BP 6_3V
A11 BP S S S S S N016 S SCHMITT Vhigh=5.8 Trise=50n Vt=5.3 Vh=0.5
*G1 N018 S N020 S table=(0.5 0,5.3 2550m)
S1 D S N020 S Sw 
C3 D S {3.5p*2}
*D5 S N018 700V
D5 S d 700V
*R3 D N018 4.5
A1 D N005 S S S N017 S S SCHMITT Vhigh=5.8 Trise=50n Vt=0 Vh=1m
H1 N022 S value={if(I(R1)<-125u,2.3,if(I(R1)>25u,1,1.216-I(R1)*8667))}
R1 N021 N022 1k
I3 N021 EN 250u load
D6 EN N021 Ideal
H3 N002 S value={if(I(R1)<-240u,0,5.8)}
H2 N026 S value={if(I(R1)>50u,0,5.8)}
A5 N002 S S S S N008 S S BUF Vhigh=5.8 Trise=50n
A8 N002 S S S N007 S N003 S AND Vhigh=3.375 Trise=50n
A12 N008 S S S N007 N009 S S AND Vhigh=5.8 Trise=50n
D7 N003 N004 Ideal
D8 N010 N009 Ideal
R5 N004 N005 1k
R6 N010 N005 7k
V3 N006 0 2
D9 N006 N005 Ideal
C5 N005 0 3n
.model sw sw  vt=3.5 vh=-0.4 ron=2 ilimit=2550m roff=10meg  level=2
.model Ideal D(Ron=10m Roff=0.1g Vfwd=0 epsilon=1m )
.model 5_85V D(Ron=10 Roff=.1g Vfwd=0 Vrev=5.85 revepsilon=10m)
.model 6_3V D(Ron=10 Roff=.1g Vfwd=0 Vrev=6.3 revepsilon=10m)
.model 700V D(Ron=4.5 Roff=.1g Vfwd=0 Vrev=700 revepsilon=100m)
.ends TNY280_AB
