*  TNOM                 :25 degree
*  Pin Assign           :1=Anode 2=Cathode

.SUBCKT TRS4E65F 1 2
D1 11 2 TRS4E65F
J1 1 11 11 j1
R1 11 2 0.5E+11
C1 1 2 5p
D2 1 2 PDIODE1
.MODEL TRS4E65F D (
+ IS = 8.5368e-014
+ N = 1.2844
+ RS = 0.097489
+ BV = 650
+ IBV = 1E-10
+ CJO = 1.8021e-010
+ M = 0.48144
+ VJ = 1.4786
+ TT = 0
+ TNOM = 25
+ XTI = 9.771 )
.MODEL j1 NJF (
+ VTO = -54.4275
+ IS = 1E-14 
+ BETA = 0.45663
+ LAMBDA = 11.584
+ VTOTC = 0.35706
+ TNOM = 25
+ XTI = 3 )
.MODEL PDIODE1 D (
+ IS = 1e-014
+ N = 5.6
+ RS = 0.1
+ BV = 650
+ IBV = 1E-10
+ CJO = 1f
+ M = 0.5
+ VJ = 1
+ TT = 0
+ TNOM = 25
+ XTI = 170.3435 )
.ENDS
