.subckt TX_CT 1 2 3 4 5 Params: 
+ L_pri = 540uH
+ L_s1 = 15uH
+ L_s2 = 15uH
+ COUPLING = 1
+ DCR_pri =0.2
+ DCR_s1 =0.2
+ DCR_s2 =0.2
+ Fe=10Meg
Lpri   1 2  {L_pri}  Rpar={2*pi*L_pri*Fe} Cpar=1p Rser={DCR_pri}

Ls1    3 4  {L_s1}  Cpar=1p Rser={DCR_s1}

Ls2    3 4  {L_s2}  Cpar=1p Rser={DCR_s2}

Kn_K1         Lpri Ls1  Ls2    {COUPLING} 
.ends TX_CT