**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:     Visible High power LED
* Matchcode:          WL-SMDC SMT Mono-color Ceramic LED Waterclear
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3535_150353BS74500  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3894
+ RS=6.0176
+ IKF=11.518
+ CJO=0.000000000000051414
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3535_150353GS74500  1  2
D1 1 2 led
.MODEL led D
+ IS=1.2303E-19
+ N=2.2496
+ RS=9.1188
+ IKF=0
+ CJO=0.000000000000048776
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3535_150353RS74500  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.6247
+ RS=6.2175
+ IKF=9.5483
+ CJO=0.000000000000047731
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3535_150353YS74500  1  2
D1 1 2 led
.MODEL led D
+ IS=9.0141E-9
+ N=4.9950
+ RS=4.3003
+ IKF=999
+ CJO=49.240E-15
+ M=.1001
+ VJ=9.9900
.ends
******